US07511066B2
B. 3-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]thiophene-2-carboxylic Acid
A solution of the methyl 3-[2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-thiophene-2-carboxylate (3.8 g, 7.2 mmol) and EtOH (100 mL) was treated with a solution of KOH (0.88 g) in water (80 mL). The reaction mixture was refluxed overnight, quenched with glacial acetic acid (1.5 mL) and concentrated under vacuum. The resulting aqueous mixture was extracted with EtOAc (2×100 mL). The combined extracts were dried over MgSO4 and concentrated to give 3.5 g (6.8 mmol, 94%) of the acid as a foam.

reactant | methyl 3-[2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-thiophene-2-carboxylate | 7.2 mmol, 3.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC2=C(SC=C2)C(=O)OC)C=CC(=C1)N1CCCC1 | C27H35N3O6S
reactant | EtOH | 100 mL | CCO | C2H6O
reactant | KOH | 0.88 g | [OH-].[K+]
solvent | water | 80 mL | O | H2O
product | 3-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]thiophene-2-carboxylic Acid | 6.8 mmol, 3.5 g, 94% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC2=C(SC=C2)C(=O)O)C=CC(=C1)N1CCCC1 | C26H33N3O6S
